US07511133B2
Synthesis of Phenoxycarbonyltetrazole
The title compound was prepared according to the procedure described in Tetrahedron Letters, 1977, 1935. Accordingly, phenylchloroformate (6.73 g, 43 mmol) was added dropwise into a solution of tetrazole (42.84 mmol, 3 wt % in 100 mL acetonitrile) containing triethylamine (4.35 g, 43 mmol) at 0° C. The mixture was stirred for 15 minutes and the solvent was removed without heating at reduced pressure. Ethyl acetate (80 mL) was added to the white solid and passed through a plug of silica gel, eluting with 3% triethylamine in ethyl acetate to afford phenoxycarbonyltetrazole in 85% yield (6.9 g). 1H-NMR (CDCl3): δ 7.34-7.54 (m, 5H); 9.34 (s, 1H).

reactant | phenylchloroformate | 43 mmol, 6.73 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | tetrazole | 42.84 mmol, 100 mL | N1N=NN=C1 | CH2N4
reactant | triethylamine | 43 mmol, 4.35 g | C(C)N(CC)CC | C6H15N
product | phenoxycarbonyltetrazole | O(C1=CC=CC=C1)C(=O)C1=NN=NN1 | C8H6N4O2
